US07612089B2
C. Preparation of N-[4-(1-methyl-4,5-dihydro-1H-imidazol-2-yl)phenyl]-5N-(4-chlorophenylaminocarbonyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-6-carboxamide
To a solution of 5N-(4-chlorophenylaminocarbonyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-6-carboxylic acid (40 mg, 0.12 mmol) and 4-(1-Methyl-4,5-dihydro-1H-imidazol-2-yl)-phenylamine (42 mg, 0.24 mmol) in DMF (3 mL) and H2O (0.5 mL) at room temperature, EDC (68 mg, 0.35 mmol) was added. The mixture was stirred at room temperature overnight. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound as a powder (25 mg). MS 494.3 and 496.3 (M+H, Cl pattern).

reactant | (4-chlorophenylaminocarbonyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-6-carboxylic acid | 0.12 mmol, 40 mg | ClC1=CC=C(C=C1)NC(=O)C1=CC=2CNC(CC2S1)C(=O)O | C15H13ClN2O3S
reactant | 4-(1-Methyl-4,5-dihydro-1H-imidazol-2-yl)-phenylamine | 0.24 mmol, 42 mg | CN1C(=NCC1)C1=CC=C(C=C1)N | C10H13N3
reactant | EDC | 0.35 mmol, 68 mg
reactant | H2O | 0.5 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-[4-(1-methyl-4,5-dihydro-1H-imidazol-2-yl)phenyl]-5N-(4-chlorophenylaminocarbonyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-6-carboxamide | 25 mg | CN1C(=NCC1)C1=CC=C(C=C1)NC(=O)C1CC2=C(CN1C(=O)NC1=CC=C(C=C1)Cl)C=CS2 | C25H24ClN5O2S
